US04686221
1-Hydroxypiperazine dihydrochloride (2.45 g) (which is prepared in Preparation 1), dimethylsulfoxide (20 ml) and triethylamine (5.05 g) are added to 1-cyclopropyl-3-cyano-1,4-dihydro-4-oxo-6,7,8-trifluoroquinoline (2.64 g), which is prepared in Preparation 3, and the mixture is stirred with heating at 100° C. for 4 hours. After cooling to room temperature, water (300 ml) is added to the reaction mixture, and the resulting precipitate is filtered and washed with water to afford 3-cyano-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline (2.84 g) as pale yellow powder. The powder is recrystallized from dimethylsulfoxide to yield light brown needles, m.p. about 214° C. (decomposition).

reactant | 1-Hydroxypiperazine dihydrochloride | 2.45 g | Cl.Cl.ON1CCNCC1
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | 1-cyclopropyl-3-cyano-1,4-dihydro-4-oxo-6,7,8-trifluoroquinoline | 2.64 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C#N | C13H7F3N2O
solvent | water | 300 ml | O | H2O
product | 3-cyano-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline | 2.84 g | C(#N)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CCN(CC1)O)F)C1CC1 | C17H16F2N4O2
